* C:\Users\maxwe\Desktop\SPRING 2021 Documents\Engineering Design\GitHub\CMOS-Differential-Pair\differential_pair.asc
M§T2 V_out Vi- N004 N004 cmosn l=0.13u w=10u
M§T1 N002 Vi+ N004 N004 cmosn l=0.13u w=10u
M§T4 V_out N002 VDD VDD cmosp l=0.13u w=30u
M§T3 N002 N002 VDD VDD cmosp l=0.13u w=30u
VDD VDD 0 1.2V
M§T5 N004 VB VSS VSS cmosn l=0.13u w=10u
M§TB VB VB VSS VSS cmosn l=0.13u w=10u
RB VDD VB 100
VSS VSS 0 0V
M§T6 Vi-_t Vi-_t N003 N003 cmosn l=0.13u w=10u
M§T7 N001 0 N003 N003 cmosn l=0.13u w=10u
M§T8 Vi-_t N001 Vp Vp cmosp l=0.13u w=30u
M§T9 N001 N001 Vp Vp cmosp l=0.13u w=30u
Vp Vp 0 AC 1
M§T10 N003 VB 0 0 cmosn l=0.13u w=10u
M§TB1 VB VB 0 0 cmosn l=0.13u w=10u
RB1 Vp VB 100
C1 0 V_out 5p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\maxwe\Documents\LTspiceXVII\lib\cmp\standard.mos
.include cmos_013_bsim4.mod
;tf V_out Vi+
*Ap = V_out2 / Vp
*Ad = V_out / Vi+
*PSRR = |Ad / Ap| =(V(v_out)/V(vi+))/(V(vi-_t)/V(vp))
.ac dec 100 10 100Meg
.backanno
.end
